US07189851B2
A. 5-{(9aS)-3-(ethoxycarbonyl)-2-[2-(4-fluorophenyl)ethyl]-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-a]pyrrolizin-4-yl}-2-thiophenecarboxylic acid
A DMF (10 mL) solution of tert-Butyl (2S)-2-(3-ethoxy-3-oxopropanoyl)-1-pyrrolidinecarboxylate (2.85 g, 9.99 mmol), 2-formyl-5-thiophene carboxylic acid (1.56 g, 9.99 mmol) and piperidine (0.494 mL, 5.00 mmol) was heated to 80° C. for 45 min and then cooled to ambient temperature. The reaction mixture was diluted with Et2O and washed 1 N HCl, 2× H2O, 1× brine and the organics dried (Na2SO4), filtered and concentrated to a brown residue. The Knoevenagel product (4.23 g, 9.99 mmol) and ethyl (2Z)-3-amino-5-(4-fluorophenyl)-2-pentenoate (2.37 g, 9.99 mmol) were heated to 110° C. for 1.5 h and then cooled to ambient temperature. The glassy solid was redissolved in CH3CN (20 mL) and H2O (20 mL) followed by addition of ceric ammonium nitrate (10.95 g, 19.98 mmol). The reaction mixture stirred for 45 min at ambient temperature and then Et2O was added and the organics extracted and washed 1× H2O, 1× brine, and then dried (Na2SO4), filtered and concentrated to a dark tan solid. The solid from the previous reaction was subjected to TFA (15 mL in 4 mL CH2Cl2) for 1 h and then concentrated. The residue was redissolved in CH2Cl2 (20 mL) and treated with Et3N (12 mL). After 16 h the reaction mixture was concentrated to a brown foam. The residue was redissolved in CHCl3 and washed 1× pH 4.5 buffer, 1× brine and the organics dried (Na2SO4), filtered and concentrated. Chromatography on silica gel using 9:1 EtOAc:MeOH eluted the desired compound as a yellow solid (2.16 g, 4.37 mmol) 44% yield: 1H NMR (CDCl3, 400 MHz) δ 7.70 (d, J=3.7 Hz, 1H), 7.19–7.14 (m, 3H), 6.96 (t J=8.7 Hz, 2H), 4.70 (dd, J=10.2, 6.2 Hz, 1H), 4.15 (dd, J=14.2, 7.1 Hz, 2H), 3.81–3.71 (m, 1H), 3.43–3.35 (m, 1H), 3.18–3.06 (m, 4H), 2.51–2.40 (m, 1H), 2.39–2.26 (m, 2H), 1.11 (t, J=7.1 Hz, 3H).

reactant | tert-Butyl (2S)-2-(3-ethoxy-3-oxopropanoyl)-1-pyrrolidinecarboxylate | 9.99 mmol, 2.85 g | C(C)OC(CC(=O)[C@H]1N(CCC1)C(=O)OC(C)(C)C)=O | C14H23NO5
reactant | 2-formyl-5-thiophene carboxylic acid | 9.99 mmol, 1.56 g | C(=O)C=1SC(=CC1)C(=O)O | C6H4O3S
reactant | piperidine | 5.00 mmol, 0.494 mL | N1CCCCC1 | C5H11N
reactant | ethyl (2Z)-3-amino-5-(4-fluorophenyl)-2-pentenoate | 9.99 mmol, 2.37 g | N\C(=C/C(=O)OCC)\CCC1=CC=C(C=C1)F | C13H16FNO2
reactant | TFA | 15 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | Et2O | CCOCC | C4H10O
solvent | CH3CN | 20 mL | CC#N | C2H3N
solvent | MeOH | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | 20 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-{(9aS)-3-(ethoxycarbonyl)-2-[2-(4-fluorophenyl)ethyl]-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-a]pyrrolizin-4-yl}-2-thiophenecarboxylic acid | 4.37 mmol, 2.16 g, 44% yield | C(C)OC(=O)C1=C(C2=C([C@@H]3CCCN3C2=O)N=C1CCC1=CC=C(C=C1)F)C1=CC=C(S1)C(=O)O | C26H23FN2O5S
